US04367332
To a solution of 4.0 g of arabinofuranosylcytosine dissolved in 50 ml of dimethylacetamide, there are added 4.15 g of sodium hydrogen carbonate and 4.41 g of heptylchloroformate. The resultant mixture is allowed to react under stirring at room temperature for 3 hours. After the reaction, dimethylacetamide is removed under reduced pressure and 150 ml of cold water is added to the residue. After the mixture is stirred for 2 hours, the solids are collected by filtration and dried. Recrystallization of the white powders obtained is performed twice, using 200 ml and 150 ml of a mixture of chloroform-acetonitrile (1:1), to give 2.5 g of N4 -heptyloxycarbonyl-1-β-D-arabinofuranosylcytosine (Yield:40%).

reactant | arabinofuranosylcytosine | 4.0 g | C1([C@@H](O)[C@H](O)[C@H](O1)CO)N1C(=O)N=C(N)C=C1 | C9H13N3O5
reactant | sodium hydrogen carbonate | 4.15 g | C(O)([O-])=O.[Na+]
reactant | heptylchloroformate | 4.41 g | C(CCCCCC)OC(=O)Cl | C8H15ClO2
reactant | chloroform acetonitrile | C(Cl)(Cl)Cl.C(C)#N
solvent | dimethylacetamide | 50 ml | CC(=O)N(C)C | C4H9NO
product | N4 -heptyloxycarbonyl-1-β-D-arabinofuranosylcytosine | 2.5 g, Yield:40% | C(CCCCCC)OC(=O)NC1=NC(N(C=C1)[C@H]1[C@@H](O)[C@H](O)[C@H](O1)CO)=O | C17H27N3O7
